US08877760B2
(R)-5-(1-amino-1-oxobutan-2-ylamino)-3-(4-(pyridin-3-yl)phenylamino)pyrazine-2-carboxamide
The compound (R)-2-(5-cyano-6-(4-(pyridin-3-yl)phenylamino)pyrazin-2-ylamino)butanamide (90 mg, 0.241 mmol) was dissolved in EtOH (2 mL) and DMSO (1 mL), aq. 1N NaOH (1.0 mL) and aq. H2O2 (30%, 1.0 mL) were added. The mixture was stirred at room temperature for 20 min. HOAc (0.1 mL) was added. The mixture was then concentrated in vacuo. To the residue, CH3CN (6 mL) and H2O (8 mL) were added to induce precipitation. The precipitate was collected by filtration, and dried on vacuum to give the titled compound (40 mg). The filtrate was purified by HPLC to give additional titled compound (11 mg). MS 392.3 (M+H); UV 202.3, 235.8, 274.4, 336.1 nm; t 0.404 min.

reactant | (R)-2-(5-cyano-6-(4-(pyridin-3-yl)phenylamino)pyrazin-2-ylamino)butanamide | 0.241 mmol, 90 mg | C(#N)C=1N=CC(=NC1NC1=CC=C(C=C1)C=1C=NC=CC1)N[C@@H](C(=O)N)CC | C20H19N7O
reactant | NaOH | 1N, 1.0 mL | [OH-].[Na+]
reactant | H2O2 | 1.0 mL | OO | H2O2
reactant | HOAc | 0.1 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (R)-5-(1-amino-1-oxobutan-2-ylamino)-3-(4-(pyridin-3-yl)phenylamino)pyrazine-2-carboxamide | 40 mg | NC([C@@H](CC)NC=1N=C(C(=NC1)C(=O)N)NC1=CC=C(C=C1)C=1C=NC=CC1)=O | C20H21N7O2
